US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(2-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (1.39 g: 1.34 mMol.) in a mixture anisole (5 ml) and nitromethane (20 ml) is added dropwise a solution of aluminum chloride (1.43 g: 10.8 mMol.) in anisole (5 ml) at -40° C. After stirring at -30° to -40° C. for 1 hour, the mixture is diluted with 1N-hydrochloric acid (11 ml) and water and washed with ethyl acetate. The aqueous layer is concentrated under reduced pressure to remove organic solvents and passed through a column of styrene-divinylbenzene copolymer adsorbent. The product is eluted with methanol-water (4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid as pale yellow powder (534 mg). Yield: 75%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(2-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.34 mMol, 1.39 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC2=NN(N=C2)C | C53H48N8O6S4
reactant | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
reactant | aluminum chloride | 10.8 mMol, 1.43 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 11 ml | Cl | ClH
solvent | water | O | H2O
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid | 534 mg, Yield: 75% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN(N=C2)C)C(=S)O)C1=O)=N/O | C16H16N8O4S4
